OpenCircuit factory test: forward_01.cir
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8603067503627423744
* Revision: Rev:1.1
.model OC_HONGJIACHENG_ES1DW D(IS=3.8808637480e-7 N=1.8000000000e0 RS=1.0000000000e-4)

.temp 25
Itest 0 anode DC 1.9245000000e-2
Vanchor anchor 0 DC 0
Ranchor anchor 0 1G
Ddut anode 0 OC_HONGJIACHENG_ES1DW
.op
.end
